Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetracycline Analogues / Penicillins / atenolol
 
Attending: ___.
 
Chief Complaint:
abnormal labs
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F with PMhx of HTN, Tobacco and Alcohol abuse,
Allergic rhinitis and Osteoarthritis who was sent in by PCP for
low sodium found on routine labs.  Pt reports being seen for
regular follow up and really denies any acute complaints.  She
has noted some increased fatigue and has poor po intake at
baseline.  Her PCP has noted ___ lbs of unintentional weight 
loss
and pt admits to poor appetite/intake due to living alone.  She
often doesn't bother to eat dinner if she is tired or she orders
take out.  She denies any new SOB, CP, cough, abd pain, 
diarrhea,
constipation, dysuria, hematuria, rashes or new lumps.  Denies
falls or LH.  She has arthritis related neck pain and sometimes
takes Naprosyn. She reports taking Bendryl before bed for
allergies but denies any other OTC meds.   She reports drinking
___ glasses of white wine(often mixed with water) per day for
many years and denies previous history of withdrawal.  Last 
drink
as 2 days prior to admission.  She typically drinks ___ bottles
of water per day and notes frequent urination in the morning
after taking am meds (Lisinopril and HCTZ).   Pt feels strongly
that nothing has changed recently, no confusion, HA or fevers.

On arrival to the floor, pt had just eaten dinner in the ED and
enjoyed a tuna melt with a small gingerale.  She feels a little
dry but denies any focal pain.   Pt reports feeling better after
eating and likes hospital food.  Pt feels that she will eat well
here but denies any food insecurity, often gets take out because
of eating alone. 
 
Past Medical History:
HYPERTENSION                                                    
ALLERGIC RHINITIS                                               
TOBACCO ABUSE                                                  
ALCOHOL ABUSE                                                   
OSTEOPOROSIS                                                    

 
Social History:
___
Family History:
does not know birth mother, has an uncle with DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
 97.9  168/94  72  18  97 RA (orthostatics negative)
GEN: Pleasant, calm, thin, female, NAD
HEENT: MM slightly dry, 
CV: RRR, soft SEM, normal S2
RESP: CTAB no w/r appreciated
ABD: soft, thin, NABs, no rebound or palpable masses
GU: no foley 
EXTR: thin, no edema, no bruising or rashes noted
NEuro: alert, oriented and appropriate

DISCHARGE PHYSICAL EXAM:
98.___ / ___.   ___
GEN: elderly female ambulating in room independently
HEENT: MMM
CV: RRR
RESP: CTAB  no w/r
ABD: soft, NT, NABS,ND
GU: no foley
EXTR: warm, no edema
NEURO: tired from poor sleep in hospital but alert/oriented x3
 
Pertinent Results:
ADMISSION LABS:
==============

___ 03:50PM BLOOD WBC-7.1 RBC-3.93 Hgb-13.0 Hct-36.1 MCV-92 
MCH-33.1* MCHC-36.0 RDW-13.9 RDWSD-46.8* Plt ___
___ 03:50PM BLOOD UreaN-13 Creat-0.7 Na-123* K-3.2* Cl-77* 
HCO3-27 AnGap-19*
___ 03:50PM BLOOD ALT-32 AST-46*
___ 03:20PM BLOOD Calcium-9.8 Phos-3.8 Mg-1.7
___ 03:20PM BLOOD Osmolal-249*
___ 03:50PM BLOOD TSH-2.9

IMAGING:
========
CXR Pa/lat:   
No acute cardiopulmonary process. 

DISCHARGE LABS:
==============

___ 07:25AM BLOOD Glucose-86 UreaN-9 Creat-0.4 Na-128* 
K-4.0 Cl-91* HCO3-23 AnGap-14
___ 01:08PM BLOOD Creat-0.6 Na-129*
___ 11:00AM BLOOD Glucose-87 UreaN-13 Creat-0.5 Na-127* 
K-4.3 Cl-90* HCO3-26 AnGap-___ with past medical history of hypertension and alcohol 
abuse who presents with hyponatremia. This was felt to be due to 
poor solute intake and medication effect with HCTZ. HCTZ was 
held and nutrition was consulted. Pt was placed on 1.5L fluid 
restriction. The Na improved to 127-129 with these 
interventions. Pt was started on Salt tabs 1 gram BID and we 
recommended ongoing monitoring of her labs but pt was very eager 
to leave the hospital to care for her dog. We agreed to proceed 
with discharge on Salt tabs as described and strongly encouraged 
her to keep the follow up appointment on ___ with her PCP for 
repeat labs. 

#Euvolemic Hyponatremia without mental status changes: suspect 
multifactorial etiology related to HCTZ use with poor 
nutrition/limited solute intake and ETOH abuse.  TSH normal, 
Urine Na of 34 and Urine Osm of 281 with Serum Osm 249 on 
presentation is not really consistent with SIADH though ADH was 
likely be contributing as her Na worsened after her fluid 
restriction was liberalized. Her HCTZ was held and pt was placed 
on fluid restriction. She was encouraged to take in Ensure TID 
and was seen by nutrition who provided advice about 
caloric/fluid intake. Pt was started on salt tabs BID and was 
encouraged to stay an additional day for monitoring but she was 
very determined to get home to care for her dog.  We agreed with 
plan for d/c home and close follow up with her PCP ___ ___ for 
repeat BMP. Na at the time of discharge had corrected to the 
127-129 range.

HTN: Continued home lisinopril and held HCTZ

ETOH abuse: denies hx of withdrawal and last drink was 2 days 
prior to presentation. She was started on MVI, thiamine, folate. 
She had no signs of withdrawal during admission and agreed to 
limit alcohol intake after discharge.  

TRANSITIONAL ISSUES:
[] HCTZ stopped 
[] f/u BMP on ___
[] encourage Ensure supplementation TID and 1.5-2L fluid 
restriction
[] encourage alcohol limitation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 15 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  
3.  Sodium Chloride 1 gm PO BID 
RX *sodium chloride 1 gram one tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg one tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Lisinopril 15 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia, improving but not normalized

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because of low sodium levels. This was thought 
to be due to your medication called hydrochlorothiazide and 
because you hadn't been eating very well.  You should NOT take 
hydrochlorothiazide anymore. Please also monitor the amount of 
water that you drink and limit this to about 1.5-2 liters daily. 
  You were seen by Nutrition and should continue to take ensure 
three times a day. Do not count the Ensures towards the daily 
water limitation.  We have started you on salt tabs once daily 
to help with ongoing slow correction of your sodium.  It is VERY 
important that you keep the follow up appointment on ___ at 
3pm with Dr. ___ to have the sodium levels rechecked as they 
remain abnormal.   We anticipate that the sodium will continue 
to slowly increase as you improve your diet and salt intake 
while avoiding hydrochlorothiazide and alcohol.  We recommend 
that you limit the amount of alcohol that you drink as this can 
alter the sodium balance.

It has been a pleasure taking care of you and we wish you all 
the best,
Your ___ Care Team
 
Followup Instructions:
___